US08013018B2
To 3-(3-trifluoromethylphenyl)propionic acid was added trifluoromethanesulfonic acid at room temperature, followed by stirring at 60° C. for 3 hours. The reaction liquid was put into cold water, followed by extraction with a mixed solvent of ethyl acetate and THF. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=9:1 to 5:1) to obtain 5-trifluoromethylindane (2.2 g) and a compound of Reference Example 11 (0.70 g) as colorless solids, respectively.

reactant | 3-(3-trifluoromethylphenyl)propionic acid | FC(C=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O2
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
product | 5-trifluoromethylindane | 2.2 g | FC(C=1C=C2CCCC2=CC1)(F)F | C10H9F3
